US07754756B2
a. methyl (1H-indol-5-yloxy)-acetate
A suspension of 5-hydroxyindole (5.00 g; 37.6 mmol), caesium carbonate (26.9 g, 82.6 mmol) and ethyl bromoacetate (4.60 g, 30.0 mmol) in 100 ml acetone is stirred for 18 hours at ambient temperature. Then the reaction mixture is combined with water and DCM. The phases are separated and the aqueous phase is extracted with DCM. The combined phases are dried on sodium sulphate and freed from the solvent in vacuo.

reactant | 5-hydroxyindole | 37.6 mmol, 5.00 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | caesium carbonate | 82.6 mmol, 26.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 30.0 mmol, 4.60 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (1H-indol-5-yloxy)-acetate | N1C=CC2=CC(=CC=C12)OCC(=O)OC | C11H11NO3
